US03957787
To a stirred suspension of 106.0 g of lithium aluminum hydride in 3.7 l of anhydrous ether, is added, dropwise, a solution of 780.0 g of ethyl o-bromophenylacetate in 3.1 l of anhydrous ether. The reaction mixture is stirred for about three hours and then heated under reflux for about five hours. The mixture is cooled, then treated dropwise with 800 ml of water, and 1.5 l of 10% aqueous hydrochloric acid. The ether solution is washed, dried, concentrated, and the residue is distilled to give 554.0 g of o-bromophenethyl alcohol, bp. about 130°-132° (8mm), nD20 1,5760.

reactant | lithium aluminum hydride | 106.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl o-bromophenylacetate | 780.0 g | BrC1=C(C=CC=C1)CC(=O)OCC | C10H11BrO2
reactant | water | 800 ml | O | H2O
reactant | hydrochloric acid | 1.5 l | Cl | ClH
solvent | ether | 3.7 l | CCOCC | C4H10O
solvent | ether | 3.1 l | CCOCC | C4H10O
product | o-bromophenethyl alcohol | 554.0 g | BrC1=C(CCO)C=CC=C1 | C8H9BrO
